US07572809B2
Similar procedure as described in example 10 was used, starting from (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and 3-fluoro-phenol to give [1-(3-fluoro-phenoxy)-isoquinolin-3-yl]-(1H-pyrazol-3-yl)-amine. LC-MS m/e 321 (MH+).

reactant | (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC=C1 | C12H9ClN4
reactant | 3-fluoro-phenol | FC=1C=C(C=CC1)O | C6H5FO
product | [1-(3-fluoro-phenoxy)-isoquinolin-3-yl]-(1H-pyrazol-3-yl)-amine | FC=1C=C(OC2=NC(=CC3=CC=CC=C23)NC2=NNC=C2)C=CC1 | C18H13FN4O
